US05650428
The procedure described in Example 180 was repeated, except that (S)-2-(4-chlorobenzenesulfonylamino)-4-methylthiobutanoic acid (14.79 g) and methyl 4-aminophenylpropionate (7.98 g) were condensed in dichloromethane (150 ml) in the presence of N,N'-dicyclohexylcarbodiimide (11.3 g)-The reaction mixture was filtered, and the filtrate was concentrated. The resulting crude product was recrystallized from methanolethyl acetate to obtain (S)-2-(4-chlorobenzenesulfonylamino)-N-(4-(2-methoxycarbonylethyl)phenyl)-4-methylthiobutanamide (5.66 g).

reactant | (S)-2-(4-chlorobenzenesulfonylamino)-4-methylthiobutanoic acid | 14.79 g | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=S)O)CCC | C11H14ClNO3S2
reactant | methyl 4-aminophenylpropionate | 7.98 g | NC1=CC=C(C=C1)C(C(=O)OC)C | C10H13NO2
reactant | N,N'-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | (S)-2-(4-chlorobenzenesulfonylamino)-N-(4-(2-methoxycarbonylethyl)phenyl)-4-methylthiobutanamide | 5.66 g | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=S)NC1=CC=C(C=C1)CCC(=O)OC)CCC | C21H25ClN2O4S2
